US07956064B2
4-chlorothieno[3,2-c]quinoline (23 mg) was mixed with aniline (0.1 ml) and NMP (0.1 ml) and the mixture was heated in a microwave oven at 120° C. for 10 min. NMP (0.8 ml) was added and the compound purified by preparative HPLC. Genevac evaporation afforded N-phenylthieno[3,2-c]quinolin-4-amine as a pinky solid (31 mg, quant.). LCMS (ES): 95% pure, m/z 277 [M+1]+.

reactant | 4-chlorothieno[3,2-c]quinoline | 23 mg | ClC1=NC=2C=CC=CC2C2=C1C=CS2 | C11H6ClNS
reactant | aniline | 0.1 ml | NC1=CC=CC=C1 | C6H7N
solvent | NMP | 0.8 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.1 ml | CN1CCCC1=O | C5H9NO
product | N-phenylthieno[3,2-c]quinolin-4-amine | C1(=CC=CC=C1)NC1=NC=2C=CC=CC2C2=C1C=CS2 | C17H12N2S
